Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Benadryl / Bactrim
 
Attending: ___.
 
Chief Complaint:
EIN
 
Major Surgical or Invasive Procedure:
Robot-assisted total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy and cystoscopy

 
History of Present Illness:
Ms. ___ is a ___ gravida 6 para 4
referred to ___ for consultation
regarding a new diagnosis of EIN.

The patient reports intermittent PMB since ___. A PUS was
performed on ___ an anteverted, retroflexed uterus 
measuring
7.3 cm x 2.9 cm x 4.9 cm. The endometrium was difficult to 
assess
but where visualized the endometrium was thickened measuring 
6mm.
The ovaries are not visualized.  No adnexal masses are seen.
There is no free fluid. 
  
An EMBx was performed on ___ showing at least endometrioid
intraepithelial neoplasia with squamous metaplasia, with foci
suspicious for endometrial adenocarcinoma, endometrioid type,
FIGO grade 1. PAP Smear NILM on ___.

Given these findings, she was referred to ___-ONC for
consultation. Today, she confirms the history stated above. She
denies changes in bowel or bladder habits, vaginal discharge, 
and
tolerating a regular diet. She report a long history of stress
incotin which is moderately bothersome for her. She also reports
recurrent UTIs but currently denies any dysuria or hematuria.

 
Past Medical History:
HYPERTENSION                                                    
LAP BAND SURGERY                                                
NEVI                                                            
SUBCLINICAL HYPOTHYROIDISM                                      
POST-HERPETIC NEURALGIA                                         
RASH                                                            
POST-MENOPAUSAL BLEEDING                                        
___ IN UTERO                                           
OBGYN                                                           
? RECURRENT URINARY TRACT INFECTION    

PSurgical History: 
PRIOR CESAREAN SECTION                                   
SUCTION DILATATION AND EVACUATION.                        
CHOLECYSTECTOMY                                                 
LAP BAND SURGERY                                                
CRYOTHERAPY CERVIX                                              
                         

 
Social History:
Marital status:     Married                                     
Children:           Yes                                         
Work: ___
Sexual activity:    Present                                     
Domestic violence:  Denies                                      
Contraception:      N/A                                         
Tobacco use:        Never smoker                                
Alcohol use:        Present                                     
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           None                                        
Seat belt/vehicle   Always                                      
restraint use:                                                  
- ___ descent, lives in ___
- Married, spouse name ___
- lives w/ spouse and children and grandson, feels safe at home

 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___     SUBARACHNOID                              
                      HEMORRHAGE                                

Father   ___     MOTOR VEHICLE                             
                      ACCIDENT                                  

Comments: She has no family history of breast, ovarian, uterine,
          cervical, vaginal or colon cancer       

 
Physical Exam:
Pre-operative exam:
CONSTITUTIONAL: normal
HEENT:  normal, MMM
NEURO: alert, appropriate, oriented x 4
THYROID:  no thyromegaly, no nodules
RESP:  CTA b/l
HEART:  RRR, no m/g/r
ABDOMEN:  obese, soft, NT, ND, no HSM, no masses, well healed
incisions
LYMPH NODES (Cervical/Supraclavicular):  not enlarged
SKIN:  normal
MUSCULOSKELETAL:  normal
EXTREMITIES:  no venous disease, good perfusion, no edema, 
healed
incision on the right, lateral ankle at site of her melanoma
excision
PELVIC: External Genitalia:  grossly normal, no visible lesions,
masses
 Vagina:  pink vaginal mucosa with scant white discharge, no
blood present in the vaginal vault 
 Cervix:  no discharge, no lesions, no CMT 
 Uterus:  AV, mobile, difficult to appreciate fundus and 
contours
given habitus, non-tender
 Adnexa:  no palpable masses bilaterally
 Inguinal Lymph Nodes: not enlarged, not tender
RECTAL:  no masses, no lesion, no tenderness, no rectal
impingement, smooth rectovaginal septum

Day of discharge exam:
vitals stable
Gen: resting comfortably, NAD
Cardiac: RRR, no m/r/g
Pulmonary: CTAB, no w/r/r
Abdomen: soft, NTND, no r/g, +bs
Incision: c/d/i
Extremities: WWP, calves nontender, pboots on
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing robot-assisted total laparoscopic hysterectomy and 
bilateral salpingo-oophorectomy for EIN. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with oral oxycodone, 
acetaminophen and ibuprofen. Her diet was advanced without 
difficulty and she voided without issues. She had hypoxia to the 
high ___ while sleeping in the PACU and was admitted overnight 
for observation and continuous O2 saturation monitoring. 
Overnight she did well and had no additional issues with 
hypoxia. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Discharge Medications:
Oxycodone 5mg q4hrs
Acetaminophen 500-1000mg q6hrs
Ibuprofen 600mg q6hrs
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. ___ have recovered well 
after your operation, and the team feels that ___ are safe to be 
discharged home. Please follow these instructions: 
  
* Take your medications as prescribed. We recommend ___ take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
___ start to feel better and need less medication, ___ should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. ___ were 
prescribed Colace. If ___ continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
___ can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___ weeks
* No heavy lifting of objects >10 lbs for 6 weeks.  
* ___ may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* ___ may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* ___ should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, ___ may remove them.  
* If ___ have staples, they will be removed at your follow-up 
visit.

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if ___ are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where ___ are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___